US08748466B2
Ethyl 2-methyl-2-(methylsulfonyl)hex-5-ynoate
Sodium hydride (60% dispersion in mineral oil, 3.9 g, 17.2 mmol, 1.2 equiv) was added to a solution of ethyl 2-(methylsulfonyl)propanoate (14.8 g, 82.0 mmol, 1.0 equiv) in N,N-dimethylformamide (180 mL) at room temperature. After the evolution of gas subsided (approx. 30 min), a stirred mixture of potassium iodide (2.89 g, 17.2 mmol, 0.2 equiv) and 4-bromobut-1-yne (10.9 g, 82.0 mmol, 1.0 equiv) in N,N-dimethylformamide (20 mL) was added dropwise via cannula (approx. 2 h). After 3 h, the reaction was quenched with water (200 mL), and the resulting solution was extracted with 1:1 ethyl acetate-hexanes (2×200 mL). The combined organic phases were washed with water (2×50 mL), brine (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography (340 g silica gel column, 0-25% gradient ethyl acetate in hexanes) to provide the title compound as a clear colorless oil (6.63 g, 35%). MS (GCMS) m/z 233 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ1.33 (t, J=7.12 Hz, 3H) 1.64 (s, 3H) 2.00 (t, J=2.63 Hz, 1H) 2.11-2.22 (m, 1H) 2.22-2.32 (m, 1H) 2.33-2.45 (m, 1H) 2.46-2.58 (m, 1H) 3.05 (s, 3H) 4.28 (q, J=7.16 Hz, 2H).

reactant | Sodium hydride | 17.2 mmol, 3.9 g, 1.2 equiv | [H-].[Na+]
reactant | ethyl 2-(methylsulfonyl)propanoate | 82.0 mmol, 14.8 g, 1.0 equiv | CS(=O)(=O)C(C(=O)OCC)C | C6H12O4S
reactant | potassium iodide | 17.2 mmol, 2.89 g, 0.2 equiv | [I-].[K+]
reactant | 4-bromobut-1-yne | 82.0 mmol, 10.9 g, 1.0 equiv | BrCCC#C | C4H5Br
solvent | N,N-dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-methyl-2-(methylsulfonyl)hex-5-ynoate | 6.63 g, 35% | CC(C(=O)OCC)(CCC#C)S(=O)(=O)C | C10H16O4S
